US04753953
cis-3-t-Butoxycarbonylamino-4-methylpyrrolidine
A suspension of 1-benzyl-cis-3-t-butoxycarbonylamino-4-methylpyrrolidine (5.37 g) and 10% palladium-on-charcoal (2.70 g) in ethanol (50 ml) was shaken with hydrogen were absorbed under elevated pressure (100 kg/cm2) at room temperature for 22 hours. The catalyst was removed by filtration and the filtrate was evaporated to give the title compound (3.25 g). The compound was gradually solidified at room temperature.

reactant | 1-benzyl-cis-3-t-butoxycarbonylamino-4-methylpyrrolidine | 5.37 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)C)NC(=O)OC(C)(C)C | C17H26N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 2.70 g | [Pd] | Pd
product | cis-3-t-Butoxycarbonylamino-4-methylpyrrolidine | 3.25 g | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@@H]1C | C10H20N2O2
